US07332485B2
N-{4,4-Dimethyl-1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-N-Hydroxy-Formamide
To a solution of N-benzyloxy-N-{4,4-dimethyl-1-[N′-(4-trifluoromethyl-pyrimidin2-yl)-hydrazinocarbonyl]-cyclohexylmethyl}-formamide (0.11 g, 0.23 mmol) in methanol (10 mL) was added 10% Pd/C (0.032 g). The reaction mixture was subjected to hydrogenation for 1 h at room temperature. The reaction mixture was then filtered through a pad of Celite@, and washed with methanol (20 mL). Removal of the solvent provided the title compound as a white solid (0.066 g, 74%). MH+390.

reactant | N-benzyloxy-N-{4,4-dimethyl-1-[N′-(4-trifluoromethyl-pyrimidin2-yl)-hydrazinocarbonyl]-cyclohexylmethyl}-formamide | 0.23 mmol, 0.11 g | C(C1=CC=CC=C1)ON(C=O)CC1(CCC(CC1)(C)C)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C23H28F3N5O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.032 g | [Pd] | Pd
product | N-{4,4-Dimethyl-1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cyclohexylmethyl}-N-Hydroxy-Formamide | 0.066 g, 74% | CC1(CCC(CC1)(C(=O)NNC1=NC=CC(=N1)C(F)(F)F)CN(C=O)O)C | C16H22F3N5O3
